### PR TITLE
feat: add `BitVec.umulOverflow` and `BitVec.smulOverflow` definitions and additional theorems

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds SMT-LIB operators to detect overflow `BitVec.(umul_overflow, smul_overflow)`, according to the definitions [here](https://github.com/SMT-LIB/SMT-LIB-2/blob/2.7/Theories/FixedSizeBitVectors.smt2), and the theorems proving equivalence of such definitions with the `BitVec` library functions (`umulOverflow_eq`, `smulOverflow_eq`). Support theorems for these proofs are  `BitVec.toInt_one_of_lt, BitVec.toInt_mul_toInt_lt, BitVec.le_toInt_mul_toInt, BitVec.toNat_mul_toNat_lt, BitVec.two_pow_le_toInt_mul_toInt_iff, BitVec.toInt_mul_toInt_lt_neg_two_pow_iff` and `Int.neg_mul_le_mul, Int.bmod_eq_self_of_le_mul_two, Int.mul_le_mul_of_natAbs_le, Int.mul_le_mul_of_le_of_le_of_nonneg_of_nonpos, Int.pow_lt_pow`. The PR also includes a set of tests.

Co-authored by @tobiasgrosser.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1400,7 +1438,7 @@ theorem not_sub_eq_not_add {x y : BitVec w} : ~~~ (x - y) = ~~~ x + y := by
 /-- The value of `(carry i x y false)` can be computed by truncating `x` and `y`
 to `len` bits where `len ≥ i`. -/
 theorem carry_extractLsb'_eq_carry {w i len : Nat} (hi : i < len)
-    {x y : BitVec w} {b : Bool}: 
+    {x y : BitVec w} {b : Bool}:
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1441]:
```suggestion
    {x y : BitVec w} {b : Bool}: 
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1414,7 +1452,7 @@ theorem carry_extractLsb'_eq_carry {w i len : Nat} (hi : i < len)
 The `[0..len)` low bits of `x + y` can be computed by truncating `x` and `y`
 to `len` bits and then adding.
 -/
-theorem extractLsb'_add {w len : Nat} {x y : BitVec w} (hlen : len ≤ w) : 
+theorem extractLsb'_add {w len : Nat} {x y : BitVec w} (hlen : len ≤ w) :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1455]:
```suggestion
theorem extractLsb'_add {w len : Nat} {x y : BitVec w} (hlen : len ≤ w) : 
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 3]
```diff
@@ -1007,6 +1007,10 @@ theorem add_ediv {a b c : Int} (h : c ≠ 0) :
 protected theorem ediv_le_ediv {a b c : Int} (H : 0 < c) (H' : a ≤ b) : a / c ≤ b / c :=
   Int.le_ediv_of_mul_le H (Int.le_trans (Int.ediv_mul_le _ (Int.ne_of_gt H)) H')
 
+theorem mul_le_mul_neg {a b c d : Int}
+    (hac : a ≤ c) (hbd : d ≤ b) (hb : 0 ≤ b) (hc : c ≤ 0) : a * b ≤ c * d :=
+  Int.le_trans (Int.mul_le_mul_of_nonneg_right hac hb) (Int.mul_le_mul_of_nonpos_left hc hbd)
```
Comment (bollu) [inline src/Init/Data/Int/DivMod/Lemmas.lean:1012]: Shouldn't this be in `Int/Mul/Lemmas`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -4624,6 +4654,18 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
+@[simp]
+theorem toInt_intMax : (BitVec.intMax w).toInt = 2 ^ (w - 1) - 1 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4658]:
```suggestion
theorem toInt_intMax : (intMax w).toInt = 2 ^ (w - 1) - 1 := by
```

Since we are in the namespace, I don't think we need `BitVec.`? Please do double-check!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -4624,6 +4654,18 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+  have : intMax w = BitVec.twoPow w (w - 1) - 1#w := by simp [intMax]
+  rw [this]
+  rcases w with _|_|w
+  · decide
+  · decide
+  · have : 1 < 2 ^ (w + 1 + 1) := Nat.one_lt_two_pow (by omega)
+    rw_mod_cast [BitVec.twoPow, BitVec.toInt_sub, BitVec.toInt_shiftLeft, BitVec.toNat_ofNat,
+      Int.bmod_sub_bmod_congr, toInt_one_of_lt (by omega), Nat.shiftLeft_eq,
+      Nat.mod_eq_of_lt (by omega), Int.bmod_eq_of_le_of_lt (by omega) (by rw [← Nat.two_pow_pred_add_two_pow_pred (w := w + 1 + 1) (by omega)]; omega)]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4667]:
```suggestion
    rw_mod_cast [BitVec.twoPow, BitVec.toInt_sub, BitVec.toInt_shiftLeft, BitVec.toNat_ofNat,
      Int.bmod_sub_bmod_congr, toInt_one_of_lt (by omega), Nat.shiftLeft_eq,
      Nat.mod_eq_of_lt (by omega),
      Int.bmod_eq_of_le_of_lt (by omega)
          (by rw [← Nat.two_pow_pred_add_two_pow_pred (w := w + 1 + 1) (by omega)]; omega)]
```

To be honest, I wonder if there are lemmas to be extracted here, especially the somewhat heroic rewrite of 

```lean
Int.bmod_eq_of_le_of_lt (by omega) (by rw [← Nat.two_pow_pred_add_two_pow_pred (w := w + 1 + 1) (by omega)
```

All good if there is not, but would be nice if there is.

File: src/Init/Data/Int/LemmasAux.lean [hunk 6]
```diff
@@ -140,4 +140,33 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
   simp [Int.mul_assoc]
 
+theorem bmod_eq_of_le_of_lt {x : Int} {y : Nat} (hge : -y ≤ x * 2) (hlt : x * 2 < y) :
+    x.bmod y = x := by
+  simp only [Int.bmod_def]
+  rcases x
+  · rw [Int.emod_eq_of_lt (by simp only [ofNat_eq_coe]; omega) (by omega)]; omega
+  · rw [Int.emod_eq_add_self_emod, Int.emod_eq_of_lt (by omega) (by omega)]; omega
+
+theorem mul_le_mul_self {x y : Int} {s : Nat} (hx : x.natAbs ≤ s) (hy : y.natAbs ≤ s) :
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:150]:
```suggestion
theorem mul_le_mul_self_of_natAbs_le {x y : Int} {s : Nat} (hx : x.natAbs ≤ s) (hy : y.natAbs ≤ s) :
```

There are many things that imply `x * y <= s * s`, seems useful to indicate in the theorem name that we are controlling `natAbs`.

File: src/Init/Data/Int/LemmasAux.lean [hunk 7]
```diff
@@ -140,4 +140,33 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+      norm_cast
+
+theorem neg_mul_self_le_mul {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
+      -(s * s) ≤ x * y := by
+  have := Nat.mul_pos (n := s) (m := s) (by omega) (by omega)
+  by_cases 0 ≤ x <;> by_cases 0 ≤ y
+  · have : 0 ≤ x * y := Int.mul_nonneg (by omega) (by omega); omega
+  · rw [← Int.neg_mul, Int.mul_comm (a := x)]; exact Int.mul_le_mul_neg (by omega) (by omega) (by omega) (by omega)
+  · rw [← Int.neg_mul]; exact Int.mul_le_mul_neg (by omega) (by omega) (by omega) (by omega)
+  · have : 0 < x * y := Int.mul_pos_of_neg_of_neg (by omega) (by omega); omega
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:170]:
```suggestion
  · have : 0 ≤ x * y := by apply Int.mul_nonneg <;> omega
  · rw [← Int.neg_mul, Int.mul_comm (a := x)]; apply Int.mul_le_mul_neg <;> omega
  · rw [← Int.neg_mul]; apply Int.mul_le_mul_neg <;> omega
  · have : 0 < x * y := by apply Int.mul_pos_of_neg_of_neg <;> omega
    omega
```

File: src/Init/Data/BitVec/Basic.lean [hunk 8]
```diff
@@ -719,4 +719,18 @@ def reverse : {w : Nat} → BitVec w → BitVec w
   | 0, x => x
   | w + 1, x => concat (reverse (x.truncate w)) (x.msb)
 
+/-- Overflow predicate for unsigned multiplication modulo 2^w.
+
+  SMT-Lib name: `bvumulo`.
+-/
+
+def umulOverflow {w : Nat} (x y : BitVec w) : Bool := x.toNat * y.toNat ≥ 2 ^ w
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:727]:
```suggestion
/--  `umulOverflow x y` returns `true` if multiplying `x` and `y` results in *unsigned* overflow.

  SMT-Lib name: `bvumulo`.
-/
def umulOverflow {w : Nat} (x y : BitVec w) : Bool := x.toNat * y.toNat ≥ 2 ^ w
```

Let's follow the docstrings of `bvuaddo/bvsaddo`

File: src/Init/Data/BitVec/Basic.lean [hunk 9]
```diff
@@ -719,4 +719,18 @@ def reverse : {w : Nat} → BitVec w → BitVec w
...
+
+/-- Overflow predicate for signed multiplication on w-bit 2's complement.
+
+  SMT-Lib name: `bvsmulo`.
+-/
+
+def smulOverflow {w : Nat} (x y : BitVec w) : Bool := (x.toInt * y.toInt ≥ 2 ^ (w - 1)) || (x.toInt * y.toInt < - 2 ^ (w - 1))
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:734]:
```suggestion
/-- `smulOverflow x y` returns `true` if multiplying `x` and `y` results in *signed* overflow,
treating `x` and `y` as 2's complement signed bitvectors.

  SMT-Lib name: `bvsmulo`.
-/

def smulOverflow {w : Nat} (x y : BitVec w) : Bool := (x.toInt * y.toInt ≥ 2 ^ (w - 1)) || (x.toInt * y.toInt < - 2 ^ (w - 1))
```

**Review by bollu — CHANGES_REQUESTED** [review]
Super, we're closer to having full support of all overflow ^_^ I've requested changes to golf some proofs with `<;> omega`, to change the docstrings to match the other docstrings, and to shuffle some `Int` theorems around. The next round of review should be an LGTM from me!

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 3 above)
Comment (tobiasgrosser) [reply src/Init/Data/Int/DivMod/Lemmas.lean:1012]: Potentially, indeed.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -943,7 +951,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:954]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -3115,7 +3123,7 @@ theorem sub_def {n} (x y : BitVec n) : x - y = .ofNat n ((2^n - y.toNat) + x.toN
   simp [toInt_eq_toNat_bmod, @Int.ofNat_sub y.toNat (2 ^ w) (by omega)]
 
 theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
-    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
+    (x.toInt - y.toInt < - 2 ^ (w - 1))
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3126]:
```suggestion
    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
```

File: src/Init/Data/Int/LemmasAux.lean [hunk 12]
```diff
@@ -140,4 +140,39 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+  rcases s with _|s
+  · simp [show x = 0 by omega]
+  · have := Nat.mul_pos (n := (s + 1)) (m := (s + 1)) (by omega) (by omega)
+    by_cases hx : 0 < x <;> by_cases hy : 0 < y
+    · exact Int.mul_le_mul (by omega) (by omega) (by omega) (by omega)
+    · have : x * y ≤ 0 := Int.mul_nonpos_of_nonneg_of_nonpos (by omega) (by omega); omega
+    · have : x * y ≤ 0 := Int.mul_nonpos_of_nonpos_of_nonneg (by omega) (by omega); omega
+    · have : -x * -y ≤ (s + 1) * (s + 1) := Int.mul_le_mul (by omega) (by omega) (by omega) (by omega)
+      simp [Int.neg_mul_neg] at this
+      norm_cast
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:161]:
```suggestion
    by_cases hx : 0 < x <;> by_cases hy : 0 < y
    · exact Int.mul_le_mul <;> omega
    · have : x * y ≤ 0 := Int.mul_nonpos_of_nonneg_of_nonpos <;> omega
    · have : x * y ≤ 0 := Int.mul_nonpos_of_nonpos_of_nonneg  <;> omega
    · have : -x * -y ≤ (s + 1) * (s + 1) := Int.mul_le_mul <;> omega
      simp [Int.neg_mul_neg] at this
      norm_cast
```

Also, the `simp` is non-terminal

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -4711,6 +4741,10 @@ theorem toNat_mul_of_lt {w} {x y : BitVec w} (h : x.toNat * y.toNat < 2^w) :
     (x * y).toNat = x.toNat * y.toNat := by
   rw [BitVec.toNat_mul, Nat.mod_eq_of_lt h]
 
+theorem toNat_mul_toNat_lt {x y : BitVec w} : x.toNat * y.toNat < 2 ^ (w * 2) := by
+  have := BitVec.isLt x; have := BitVec.isLt y
+  simp only [Nat.mul_two, Nat.pow_add]
+  exact Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4747]:
```suggestion
  exact Nat.mul_lt_mul_of_le_of_lt <;> omega
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -4407,6 +4415,28 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+theorem le_toInt_mul_toInt {x y : BitVec w} : - (2 ^ (w * 2 - 2)) ≤ x.toInt * y.toInt := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have xlt := two_mul_toInt_lt (x := x); have xle := le_two_mul_toInt (x := x)
+    have ylt := two_mul_toInt_lt (x := y); have yle := le_two_mul_toInt (x := y)
+    have h : 2 ^ ((w + 1) * 2 - 2) = 2 ^ ((w + 1) - 1) * 2 ^ ((w + 1) - 1) := by
+      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := (w + 1) - 1), Nat.mul_sub_one, Nat.mul_comm]
+    rw_mod_cast [h]
+    rw [← Nat.two_pow_pred_mul_two (by omega), Int.natCast_mul] at xlt ylt xle yle
+    exact Int.neg_mul_self_le_mul (by omega) (by omega) (by omega) (by omega)
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4438]:
```suggestion
    exact Int.neg_mul_self_le_mul <;> omega
```

File: src/Init/Data/Int/LemmasAux.lean [hunk 15]
```diff
@@ -140,4 +140,39 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+
+theorem mul_le_mul_neg {a b c d : Int}
+    (hac : a ≤ c) (hbd : d ≤ b) (hb : 0 ≤ b) (hc : c ≤ 0) : a * b ≤ c * d :=
+  Int.le_trans (Int.mul_le_mul_of_nonneg_right hac hb) (Int.mul_le_mul_of_nonpos_left hc hbd)
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:165]: I don't really know what the theorem statement should be, but I'm pretty sure `mul_le_mul_neg isn't it. The most verbose, but explicit name, is:

```suggestion
/--
This is a generalization of `a ≤ c` and `b ≤ d` implying `a * b ≤ c * d` for natural numbers,
appropriately generalized to integers when `b` is nonnegative and `c` is nonpositive.
-/
theorem mul_le_mul_of_le_of_le_of_nonneg_of_nonpos {a b c d : Int}
    (hac : a ≤ c) (hbd : d ≤ b) (hb : 0 ≤ b) (hc : c ≤ 0) : a * b ≤ c * d :=
  Int.le_trans (Int.mul_le_mul_of_nonneg_right hac hb) (Int.mul_le_mul_of_nonpos_left hc hbd)
```

Comment (luisacicolini) [reply src/Init/Data/Int/LemmasAux.lean:165]: I am happy to have a longer (but clearer) name!

File: src/Init/Data/Int/LemmasAux.lean [hunk 16]
```diff
@@ -140,4 +140,39 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+
+theorem neg_mul_self_le_mul {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:171]:
```suggestion
/--
A corollary of |s| ≤ x, and |s| ≤ y, then |s|² ≤ x * y,
-/
theorem neg_mul_self_le_mul {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 17]
```diff
@@ -1329,6 +1330,43 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+    simp only [show BitVec.twoPow (w + 1) w - 1#(w + 1) = BitVec.intMax (w + 1) by simp [intMax],
+      toInt_intMax, Nat.add_one_sub_one, toInt_twoPow, show ¬w + 1 ≤ w by omega, ↓reduceIte,
+      Nat.shiftLeft_eq, Nat.one_mul]
+    push_cast
+    rw [← Nat.two_pow_pred_add_two_pow_pred (by omega),
+      Int.bmod_eq_of_le_of_lt (by rw [← Nat.mul_two]; push_cast; omega)
+                              (by rw [← Nat.mul_two]; push_cast; omega)]
+    simp only [bool_to_prop]
+    omega
+
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1369]: I'll make a similar comment here: It would be nice to understand what the proof is doing, so we can extract out intermediate lemmas. I understand that this proof *must* be complex, since it involves overflows and `bmod` reasoning, but it would be nice to have intermediate lemmas.

File: src/Init/Data/Int/LemmasAux.lean [hunk 18]
```diff
@@ -140,4 +140,46 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+appropriately generalized to integers when `b` is nonnegative and `c` is nonpositive.
+-/
+theorem mul_le_mul_of_le_of_le_of_nonneg_of_nonpos {a b c d : Int}
+    (hac : a ≤ c) (hbd : d ≤ b) (hb : 0 ≤ b) (hc : c ≤ 0) : a * b ≤ c * d :=
+  Int.le_trans (Int.mul_le_mul_of_nonneg_right hac hb) (Int.mul_le_mul_of_nonpos_left hc hbd)
+
+/--
+A corollary of |s| ≤ x, and |s| ≤ y, then |s|² ≤ x * y,
+-/
+theorem neg_mul_self_le_mul {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:174]:
```suggestion
A corollary of `Int. mul_le_mul_self_of_natAbs_le`, which says that if |s| ≤ x, and |s| ≤ y, then |s|² ≤ x * y,
-/
theorem neg_mul_self_le_mul {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
```

File: src/Init/Data/Int/LemmasAux.lean (hunk 12 above)
Comment (luisacicolini) [reply src/Init/Data/Int/LemmasAux.lean:161]: This sadly does not seem to work (the `<;> omega` raises a type mismatch error and leaves goals unsolved)

Comment (bollu) [reply src/Init/Data/Int/LemmasAux.lean:161]: I'd suggest marking the issue as resolved, in that case!

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 19]
```diff
@@ -4407,6 +4415,28 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+theorem toInt_mul_toInt_lt {x y : BitVec w} : x.toInt * y.toInt ≤ 2 ^ (w * 2 - 2) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4418]:
```suggestion
theorem toInt_mul_toInt_lt {x y : BitVec w} : x.toInt * y.toInt < 2 ^ (w * 2 - 2) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -4735,6 +4769,41 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+    repeat rw [BitVec.toInt_signExtend_of_le (by omega)]
+    simp only [show BitVec.twoPow (w + 1) w - 1#(w + 1) = BitVec.intMax (w + 1) by simp [intMax],
+      toInt_intMax, Nat.add_one_sub_one]
+    push_cast
+    rw [← Nat.two_pow_pred_add_two_pow_pred (by omega),
+      Int.bmod_eq_of_le_of_lt (by rw [← Nat.mul_two]; push_cast; omega)
+                              (by rw [← Nat.mul_two]; push_cast; omega)]
+    omega
+
+theorem toInt_mul_toInt_lt_two_pow_iff {x y : BitVec w} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4791]:
```suggestion
theorem toInt_mul_toInt_lt_neg_two_pow_iff {x y : BitVec w} :
```

**Review by bollu — APPROVED** [review]
LGTM modulo nits. The proofs are somewhat long, but I don't see a way to bypass the essential difficulty of reasoning about multiplication and comparisons without much heavier automation.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 20 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4791]: I think `toInt_mul_toInt_lt_iff` would likely already be sufficient, no? The same for the theorem above.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I think renaming `two_pow_le_toInt_mul_toInt_iff` is a bit hard without losing precision, and therefore would rather maintain the extended names for both, for consistency.

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean (hunk 10 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:954]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3126]:
```suggestion
    (x.toInt - y.toInt < - 2 ^ (w - 1)) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -3131,7 +3139,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3142]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

**Review by hargoniX — CHANGES_REQUESTED** [review]
Beyond style and naming convention I wonder whether these are the precise theorem statements that we want as they seem rather unwieldy. Though I do of course understand that they are just unwieldy by nature.

As per usual I do think that someone else should review the `Int` lemmas.

File: src/Init/Data/Int/Pow.lean [hunk 22]
```diff
@@ -46,4 +46,11 @@ protected theorem two_pow_pred_sub_two_pow' {w : Nat} (h : 0 < w) :
   rw [← Nat.two_pow_pred_add_two_pow_pred h]
   simp [h]
 
+theorem pow_lt_pow {a : Int} {b c : Nat} (ha : 1 < a) (hbc : b < c):
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/Int/Pow.lean]: @luisacicolini, how did you address this comment?

[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/Int/Pow.lean]: I changed the name of the theorem to be `Int.pow_lt_pow_of_lt`

File: src/Init/Data/Int/LemmasAux.lean [hunk 23]
```diff
@@ -151,4 +151,46 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
   obtain ⟨k, rfl⟩ := hnm
   simp [Int.mul_assoc]
 
+theorem bmod_eq_of_le_of_lt {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt : x * 2 < y) :
+    x.bmod y = x := by
```
Comment (TwoFX) [inline src/Init/Data/Int/LemmasAux.lean:155]: You can replace the proof with `bmod_eq_self_of_le (by omega) (by omega)`, and perhaps it would be a good idea to change one of the names to make the difference more clear.

File: src/Init/Data/Int/LemmasAux.lean [hunk 24]
```diff
@@ -151,4 +151,46 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+  simp only [Int.bmod_def]
+  rcases x
+  · rw [Int.emod_eq_of_lt (by simp only [ofNat_eq_coe]; omega) (by omega)]; omega
+  · rw [Int.emod_eq_add_self_emod, Int.emod_eq_of_lt (by omega) (by omega)]; omega
+
+theorem mul_le_mul_self_of_natAbs_le {x y : Int} {s : Nat} (hx : x.natAbs ≤ s) (hy : y.natAbs ≤ s) :
+    x * y ≤ s * s := by
```
Comment (TwoFX) [inline src/Init/Data/Int/LemmasAux.lean:162]: This generalizes to
```suggestion
theorem mul_le_mul_of_natAbs_le {x y : Int} {s t : Nat} (hx : x.natAbs ≤ s) (hy : y.natAbs ≤ t) :
    x * y ≤ s * t := by
```
and I suspect so does `neg_mul_self_le_mul` below.

File: src/Init/Data/Int/LemmasAux.lean [hunk 25]
```diff
@@ -151,4 +151,46 @@ theorem bmod_bmod_of_dvd {a : Int} {n m : Nat} (hnm : n ∣ m) :
...
+    · have : x * y ≤ 0 := Int.mul_nonpos_of_nonpos_of_nonneg (by omega) (by omega); omega
+    · have : -x * -y ≤ (s + 1) * (s + 1) := Int.mul_le_mul (by omega) (by omega) (by omega) (by omega)
+      simp [Int.neg_mul_neg] at this
+      norm_cast
+
+/--
+This is a generalization of `a ≤ c` and `b ≤ d` implying `a * b ≤ c * d` for natural numbers,
+appropriately generalized to integers when `b` is nonnegative and `c` is nonpositive.
+-/
+theorem mul_le_mul_of_le_of_le_of_nonneg_of_nonpos {a b c d : Int}
```
Comment (TwoFX) [inline src/Init/Data/Int/LemmasAux.lean:178]: There should be four versions of this, would you mind adding the other three?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 19 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4579]: Why was this closed @luisacicolini. It would be useful if you can always add a comment with respect to how you resolved this comment.

File: src/Init/Data/Int/LemmasAux.lean (hunk 24 above)
Comment (bollu) [reply src/Init/Data/Int/LemmasAux.lean]: @TwoFX suggested the more specific lemma as a *corollary* of the more general fact, since it was what we needed to control the particular situation at hand :) I am still mildly in favor of keeping it specific, especially since the name `mul_le_mul_self_of_natAbs_le` communicates what bound is being established at the use site.

As a compromise, I'm happy to have the general version (`mul_le_mul_of_natAbs_le`), from which we immediately derive the more specific corollary (`mul_le_mul_self_of_natAbs_le`), which we then use in the proof?

Comment (TwoFX) [reply src/Init/Data/Int/LemmasAux.lean]: I don't follow. `mul_le_mul_of_natAbs_le` is strictly more general, has a very natural statement (being one of several good answer to the question "what is the correct statement of `Nat.mul_le_mul` for integers?"), your use site required no modification to switch to the more general form, and there is no corresponding `Nat.mul_le_mul_self`, so I don't see a reason to introduce `mul_le_mul_self_of_natAbs_le`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 26]
```diff
@@ -4568,6 +4576,32 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+#eval (1#1).toInt * (1#1).toInt < 2 ^ (1 * 2 - 2)
+
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:4580]:
```suggestion


```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 27]
```diff
@@ -4568,6 +4576,32 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+
+
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:4580]:
```suggestion
```

File: src/Init/Data/Int/LemmasAux.lean (hunk 23 above)
Comment (luisacicolini) [reply src/Init/Data/Int/LemmasAux.lean:155]: done! now it's called `bmod_eq_self_of_le_mul_two`

File: src/Init/Data/Int/LemmasAux.lean (hunk 24 above)
Comment (luisacicolini) [reply src/Init/Data/Int/LemmasAux.lean]: thank you for the comments, I left the general version.

File: src/Init/Data/Int/LemmasAux.lean (hunk 25 above)
Comment (luisacicolini) [reply src/Init/Data/Int/LemmasAux.lean:177]: done!

**Comment by luisacicolini** [comment]
thank you for the review!
